US04502880
A 10-g portion of 1-(2-chloroquinazoline-4-yl)pyridinium chloride was added to 100 ml of pyridine under a calcium sulfate drying tube, refluxed 11/2 hours, then allowed to stir 3 days. The reaction was filtered and the solid was rinsed with pyridine, then ether, and dried in vacuo giving 10.4 g of 1,1'-(2,4-quinazolinediyl)bis[pyridinium] dichloride (m.p. 156°-162° C.).

reactant | 1-(2-chloroquinazoline-4-yl)pyridinium chloride | [Cl-].ClC1=NC2=CC=CC=C2C(=N1)[N+]1=CC=CC=C1
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 1,1'-(2,4-quinazolinediyl)bis[pyridinium] dichloride | 10.4 g | [Cl-].[Cl-].N1=C(N=C(C2=CC=CC=C12)[N+]1=CC=CC=C1)[N+]1=CC=CC=C1 | InChI=1S/C18H14N4.2ClH/c1-5-11-21(12-6-1)17-15-9-3-4-10-16(15)19-18(20-17)22-13-7-2-8-14-22;;/h1-14H;2*1H/q+2;;/p-2
